US06887874B2
A solution of 3-acetylmethyl-1,2-difluoro-4-nitrobenzene (500 mg, 2.3 mmol) in methylene chloride (5 ml) containing montmorillonite K10 (1 g) and trimethyl orthoformate (5 ml) was stirred for 24 hours at ambient temperature. The solid was filtered, washed with methylene chloride and the filtrate was evaporated to give 1,2-difluoro-3-(2,2-dimethoxypropyl)-4-nitrobenzene (534 mg, 88%).

reactant | 3-acetylmethyl-1,2-difluoro-4-nitrobenzene | 2.3 mmol, 500 mg | C(C)(=O)CC=1C(=C(C=CC1[N+](=O)[O-])F)F | C9H7F2NO3
reactant | montmorillonite K10 | 1 g | O.[O-2].[O-2].[O-2].O=[Si]=O.O=[Si]=O.O=[Si]=O.O=[Si]=O.[Al+3].[Al+3]
reactant | trimethyl orthoformate | 5 ml | C(OC)(OC)OC | C4H10O3
reactant | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 1,2-difluoro-3-(2,2-dimethoxypropyl)-4-nitrobenzene | 534 mg, 88% | FC1=C(C(=C(C=C1)[N+](=O)[O-])CC(C)(OC)OC)F | C11H13F2NO4
